US06281356B1
An oven-dried re-sealable Schlenk tube was flushed with argon and charged with copper(I) trifluoromethanesulfonate benzene complex (1.39 g, 2.76 mmol), 1.10-phenanthroline (5.69 g, 31.6 mmol), dibenzylideneacetone (740 mg, 3.16 mmol) and cesium carbonate (10 g, 30.7 mmol). Imidazole (3.23 g 44.8 mmol), 6-iodo-1-methyl-1H-indole (8.13 g, 31.6 mmol) and xylene (16 mL) were added and the tube was purged with argon. The tube was sealed and heated with stirring at 160° C. for 18 h. The mixture was cooled to room temperature and partitioned between CH2Cl2 (35 mL) and saturated aqueous NH4Cl (5 mL). The organic layer was separated and washed with brine. Then the organic extract was dried over MgSO4, filtered and concentrated. The crude concentrate was filtered though a pad of silica gel and evaporated. Purification by HPLC afforded 6-imidazol-1-yl-1-methyl-1H-indole as a brown oil (3.1 g, 50%). [Ref: Kiyoori, A.; Marcoux, J-F.; Buchwald, S. L. Tetrahedron Lett., 1999, 40, 2657.]

reactant | 1.10-phenanthroline | 31.6 mmol, 5.69 g | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | dibenzylideneacetone | 3.16 mmol, 740 mg | C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1 | C17H14O
reactant | cesium carbonate | 30.7 mmol, 10 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Imidazole | 44.8 mmol, 3.23 g | N1C=NC=C1 | C3H4N2
reactant | 6-iodo-1-methyl-1H-indole | 31.6 mmol, 8.13 g | IC1=CC=C2C=CN(C2=C1)C | C9H8IN
solvent | xylene | 16 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 6-imidazol-1-yl-1-methyl-1H-indole | 3.1 g, 50% | N1(C=NC=C1)C1=CC=C2C=CN(C2=C1)C | C12H11N3
